US05599832
Preparation of 3,5,7-trichloro-2-(p-chlorophenyl)indole
(1.0 g, 3.38 mmole) A solution of 5,7-dichloro-2-(p-chlorophenyl)-indole(in tetrahydrofuran is treated dropwise with 1.0 mL of thionyl chloride, stirred for 16 hours at room temperature, poured over ice and filtered. The filtercake is air-dried to afford the title product as a yellow solid, 0.85 g (76% yield), mp 148°-149° C., identified by IR, 1HNMR and elemental analyses.

reactant | 5,7-dichloro-2-(p-chlorophenyl)-indole | ClC=1C=C2C=C(NC2=C(C1)Cl)C1=CC=C(C=C1)Cl | C14H8Cl3N
reactant | thionyl chloride | 1.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,5,7-trichloro-2-(p-chlorophenyl)indole | 76% yield | ClC1=C(NC2=C(C=C(C=C12)Cl)Cl)C1=CC=C(C=C1)Cl | C14H7Cl4N
